US06162803
4-(5-Fluoro-1H-3-indolyl)-cyclohexanone
A solution of 4-(5-fluoro-1H-3-indolyl)-cyclohexanone ethylene ketal (2.8 g, 0.01 mol) in 200 ml (1:1) tetrahydrofuran-hydrochloric acid (1N) was allowed to stir at room temperature for 16 hours. The mixture was concentrated to half volume. The aqueous was extracted with ethyl acetate. The organic extracts were washed with brine, dried (anhydrous sodium sulfate), and filtered. The crude product was purified by flash chromatography (40% ethyl acetate in hexane) to afford 2.1 g (91%) of product as yellow solid: mp 112-114° C.

reactant | 4-(5-fluoro-1H-3-indolyl)-cyclohexanone ethylene ketal | 0.01 mol, 2.8 g | C1COC2(CCC(CC2)C2=CNC3=CC=C(C=C23)F)O1 | C16H18FNO2
solvent | tetrahydrofuran hydrochloric acid | 1N, 200 ml | O1CCCC1.Cl
product | 4-(5-Fluoro-1H-3-indolyl)-cyclohexanone | 2.1 g, 91% | FC=1C=C2C(=CNC2=CC1)C1CCC(CC1)=O | C14H14FNO
